US09126998B2
N-(2-Amino-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide
100 mg of 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid (0.30 mmol), 145 mg of (benzotriazol-1-yloxy)bisdimethylaminomethylium fluoroborate (TBTU, 0.45 mmol) and 122 mg of 4-methylmorpholine (1.20 mmol) were initially charged in 1.9 ml of DMF. 53 mg of 2-methylpropane-1,2-diamine (0.60 mmol) were then added, and the mixture was stirred at RT overnight. The reaction solution was purified by preparative HPLC (RP18 column, mobile phase: acetonitrile/water gradient with addition of 0.1% TFA). The product fractions were taken up in dichloromethane and washed with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted twice with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered, concentrated and lyophilized. This gave 94 mg of the title compound (78% of theory).

reactant | 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.30 mmol, 100 mg | FC1=C(COC=2C=3N(C=C(C2)C)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C17H14F2N2O3
reactant | (benzotriazol-1-yloxy)bisdimethylaminomethylium fluoroborate | 0.45 mmol, 145 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)O[C+](N(C)C)N(C)C
reactant | 4-methylmorpholine | 1.20 mmol, 122 mg | CN1CCOCC1 | C5H11NO
reactant | 2-methylpropane-1,2-diamine | 0.60 mmol, 53 mg | CC(CN)(C)N | C4H12N2
solvent | DMF | 1.9 ml | CN(C)C=O | C3H7NO
product | N-(2-Amino-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C)(C)C | C21H24F2N4O2
